US04364955
2 g (0.008 mol) of 1-(2-chloro-4-methylphenyl)-1-oximino-2-(1,2,4-triazol-1-yl)-ethane and 1.2 g (0.008 mol) of potassium carbonate in 8 ml of dimethylformamide were heated to 45° C. and 1.7 g (0.008 mol) of 2,6-dichlorobenzylchloride were added dropwise at that temperature. It was stirred for 12 hours at 60° C., cooled and mixed with 50 ml of water. The mixture was twice extracted with 50 ml of methylene chloride, the combined organic phases were washed with water, dried over sodium sulphate and freed of solvent. The residue which crystallized after some time was recrystallized from ethyl ether/ethyl acetate (1:1). 0.7 g (21% of theory) of 1-(2-chloro 4-methylphenyl)-1-(2,6-dichlorobenzyloximino)-2-(1,2,4-triazol-1-yl)-ethane of melting point 97°-99° C. was obtained.

reactant | 1-(2-chloro-4-methylphenyl)-1-oximino-2-(1,2,4-triazol-1-yl)-ethane | 0.008 mol, 2 g | ClC1=C(C=CC(=C1)C)C(CN1N=CN=C1)=NO | C11H11ClN4O
reactant | potassium carbonate | 0.008 mol, 1.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2,6-dichlorobenzylchloride | 0.008 mol, 1.7 g | ClC1=C(CCl)C(=CC=C1)Cl | C7H5Cl3
reactant | water | 50 ml | O | H2O
solvent | dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
product | 1-(2-chloro 4-methylphenyl)-1-(2,6-dichlorobenzyloximino)-2-(1,2,4-triazol-1-yl)-ethane | 0.7 g, 21% | ClC1=C(C=CC(=C1)C)C(CN1N=CN=C1)=NOCC1=C(C=CC=C1Cl)Cl | C18H15Cl3N4O
